US05232898
A suspension of 4.7 g of 5-amino-6-fluoro-3-(2-propynyl)-2-benzothiazolinone, 1.93 g of diketene and 0.05 g of 4-pyrrolidinopyridine in 250 ml of benzene is stirred at room temperature for 30 minutes and subsequently held at 50° C. for 30 minutes. In this manner there is obtained a solution of 5-acetoacetylamino-6-fluoro-3-(2-propynyl)-2-benzothiazolinone which is used as such in the next reaction step without isolation of the product.

reactant | 5-amino-6-fluoro-3-(2-propynyl)-2-benzothiazolinone | 4.7 g | NC=1C(=CC2=C(N(C(S2)=O)CC#C)C1)F | C10H7FN2OS
reactant | diketene | 1.93 g | C=C1CC(=O)O1 | C4H4O2
reactant | 4-pyrrolidinopyridine | 0.05 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 5-acetoacetylamino-6-fluoro-3-(2-propynyl)-2-benzothiazolinone | C(CC(=O)C)(=O)NC=1C(=CC2=C(N(C(S2)=O)CC#C)C1)F | C14H11FN2O3S
